US09447133B2
3,4,6-tri-O-benzyl-D-glucal (7.2 g, 17.3 mmol) in CH2Cl2/acetone (2:1, 105 mL) and a saturated solution of NaHCO3 (100 mL) was added. The mixture was stirred vigorously while a solution of Oxone (21.2 g, 34.6 mmol) in water (150 mL) was added dropwise over 30 minutes. After 1.5 hours of vigorous stirring the layers were separated, and the aqueous layer was extracted with CH2Cl2 (2×150 mL). The organic solutions were combined, dried over MgSO4, filtered and concentrated. The residue was co-evaporated with toluene (3×10 mL), dissolved in allyl alcohol (25 mL) and stirred at room temperature overnight. The reaction mixture was purified on a silica gel column (80 g) using an ISCO automated chromatography system, eluting with a 0→60% gradient of ethyl acetate in heptane, to give allyl 3,4,6-tri-O-benzyl-β-D-glucopyranoside (4.2 g, 50%).

reactant | 3,4,6-tri-O-benzyl-D-glucal | 17.3 mmol, 7.2 g | C(C1=CC=CC=C1)O[C@@H]1C=CO[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H28O4
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | Oxone | 34.6 mmol, 21.2 g | OOS(=O)[O-].[K+]
reactant | CH2Cl2 acetone | 105 mL | C(Cl)Cl.CC(=O)C
solvent | water | 150 mL | O | H2O
product | allyl 3,4,6-tri-O-benzyl-β-D-glucopyranoside | 4.2 g, 50% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](OCC=C)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)O | C30H34O6
